2193-08-27 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Transferred to MICU
   Arterial access obtained in left axillary artery
   Levophed started
   Bolused NS ~2L overnight
   Lactate continues to rise
   Received [**Last Name (un) 430**]/gent/cipro yesterday
   Allergies:
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Meropenem - [**2193-8-26**] 04:00 PM
   Ciprofloxacin - [**2193-8-26**] 04:50 PM
   Gentamicin - [**2193-8-26**] 07:00 PM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2193-8-26**] 06:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-27**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.4
C (95.8
   HR: 64 (56 - 72) bpm
   BP: 109/53(73) {38/15(23) - 115/89(293)} mmHg
   RR: 12 (9 - 21) insp/min
   SpO2: 92%
   Heart rhythm: RBBB (Right Bundle Branch Block)
             Total In:
                                                                  2,153 mL
                                                                  2,169 mL
   PO:
             TF:
   IVF:
                                                                  1,733 mL
                                                                  1,989 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,153 mL
                                                                  2,169 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 92%
   ABG: 7.29/32/73.[**Numeric Identifier 607**]/15/-9
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : )
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   305 K/uL
   9.0 g/dL
   197
   6.8 mg/dL
   15 mEq/L
   5.7 mEq/L
   43 mg/dL
   99 mEq/L
   138 mEq/L
   29.1 %
   24.6 K/uL
        [image002.jpg]
                             [**2193-8-26**]  01:37 PM
                             [**2193-8-26**]  01:45 PM
                             [**2193-8-26**]  06:44 PM
                             [**2193-8-26**]  10:00 PM
                             [**2193-8-26**]  10:30 PM
                             [**2193-8-27**]  12:25 AM
                             [**2193-8-27**]  03:21 AM
                             [**2193-8-27**]  03:42 AM
                             [**2193-8-27**]  06:00 AM
                             [**2193-8-27**]  06:55 AM
   WBC
   16.3
   24.6
   Hct
   26.8
   29.1
   Plt
   218
   305
   Cr
   6.7
   6.8
   TCO2
   27
   22
   19
   18
   16
   Glucose
   138
   147
   109
   182
   190
   177
   197
   Other labs: PT / PTT / INR:18.1/150.0/1.6, ALT / AST:[**9-13**], Alk Phos /
   T Bili:120/0.3, Differential-Neuts:88.3 %, Lymph:8.4 %, Mono:3.0 %,
   Eos:0.1 %, Lactic Acid:7.7 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:5.7 mg/dL
   Imaging: Left Fistula: no fluid collection, clot
   Right IJ: large thrombus
   Microbiology: [**2193-8-27**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2193-8-26**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2193-8-26**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2193-8-25**]  BLOOD CULTURE Blood Culture, Routine-PRELIMINARY {GRAM
   NEGATIVE ROD(S)}; Aerobic Bottle Gram Stain-FINAL; Anaerobic Bottle
   Gram Stain-FINAL INPATIENT
   [**2193-8-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2193-8-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   Assessment and Plan
   # Sepsis & GNR Bacteremia: Day 2 of vanc/[**Last Name (un) 430**]/gent, lactate has risen
   despite 2L fluid thought [**12-31**] to right foot wet gangrene
   -d/c cipro
   - OR today with vascular
   - continue [**Last Name (un) 430**]/gent/cipro
   - trend lactate, has risen 2.8 to 7.7
   - vasopressor support for MAP>55
   # Diabetic Foot wound
   - ascending infection, plan for amputation as definitive treatment
   today in OR
   # Abdominal Pain: no rebound/rigidty
   -consider intra-abdominal ischemia if not improving after OR today
   # Hyperkalemia: K now elevated to 5.9; dialysis neede given mental
   status and concern for sepsis.
   - insulin and dextrose
   - kayexelate if NG access can be obtained
   - calcium gluconate based on widening qrs in ecg
   -dialysis after OR today
   # RIJ Clot. Potential source being PICC line catheter, though not fully
   investigated there. There is RIJ clot however.
   -   Will anticoagulate with heparin for clot, given that there is no
   evidence of recent clots seen.
   -   Surgery aware, holding heparin to restart after OR
   #. Diabetes: Continue RISS. Pt not aware of current re
   - follow fingersticks ; only obtaining sliding scale now
   - diabetic/renal diet
   #. ESRD on HD: HD on T, Th, Sat
   -   dialysis today planned provisionally today.
   - ideally would do cvvh, needs access.
   # Agitation: QTc <500, can do trials of PRN Haldol.
   #. HTN: Hold BP meds for now
   #. COPD: bipap if necessary.
   #. Bradycardia: holding beta blocker
   #. CAD:
   - continue simvastatin, ASA
   - hold bblocker as hypotensive
   #. OSA: cpap at night.
   #. Gastroparesis: holding reglan given npo
   #. Depression: had stopped seroquel, continue remeron
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2193-8-26**] 12:30 PM
   Arterial Line - [**2193-8-26**] 06:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held  Comments: With daughter [**Name (NI) 10400**]
   [**Telephone/Fax (1) 10402**]
   Code status: Full code
   Disposition: ICU

2193-08-27 10:10:00 Physician Attending Progress Note
Chief Complaint:
   Nonspecific pain
   HPI:
   Pt seen and case discussed with medical residents
   24 Hour Events:
   To or this am for amputation
   HD initiated
   Brachial aline placed [**8-26**]
 ULTRASOUND - At [**2193-8-26**] 02:23 PM - confirmed R IJ clot, heparin
   started
   brachial arterial line placed [**8-26**]
 ULTRASOUND - At [**2193-8-26**] 09:30 PM
   of right SC and right IJ
   Allergies:
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Meropenem - [**2193-8-26**] 04:00 PM
   Ciprofloxacin - [**2193-8-26**] 04:50 PM
   Gentamicin - [**2193-8-26**] 07:00 PM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2193-8-26**] 06:59 PM
   Other medications:
   vanc per HD
   colace
   senna
   lido patch
   plavix 75
   keppra
   tylenol 1g q
   neurontin
   sevelamer
   miconazole
   zocor
   pantoprazole
   insulin sliding scale
   asa
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-27**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.4
C (95.8
   HR: 64 (56 - 72) bpm
   BP: 109/53(73) {38/15(23) - 115/89(293)} mmHg
   RR: 12 (9 - 21) insp/min
   SpO2: 92%
   Heart rhythm: RBBB (Right Bundle Branch Block)
             Total In:
                                                                  2,153 mL
                                                                  2,290 mL
   PO:
             TF:
   IVF:
                                                                  1,733 mL
                                                                  2,110 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,153 mL
                                                                  2,290 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.29/32/73.[**Numeric Identifier 607**]/15/-9
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Distended, Tender: nonspecific tenderness
   Extremities: Right lower extremity edema: Absent, s/p Laka
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Responds to: Verbal stimuli, Oriented (to): person,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   305 K/uL
   197
   6.8 mg/dL
   15 mEq/L
   5.7 mEq/L
   43 mg/dL
   99 mEq/L
   138 mEq/L
   29.1 %
   24.6 K/uL
        [image002.jpg]
                             [**2193-8-26**]  01:37 PM
                             [**2193-8-26**]  01:45 PM
                             [**2193-8-26**]  06:44 PM
                             [**2193-8-26**]  10:00 PM
                             [**2193-8-26**]  10:30 PM
                             [**2193-8-27**]  12:25 AM
                             [**2193-8-27**]  03:21 AM
                             [**2193-8-27**]  03:42 AM
                             [**2193-8-27**]  06:00 AM
                             [**2193-8-27**]  06:55 AM
   WBC
   16.3
   24.6
   Hct
   26.8
   29.1
   Plt
   218
   305
   Cr
   6.7
   6.8
   TCO2
   27
   22
   19
   18
   16
   Glucose
   138
   147
   109
   182
   190
   177
   197
   Other labs: PT / PTT / INR:18.1/150.0/1.6, ALT / AST:[**9-13**], Alk Phos /
   T Bili:120/0.3, Differential-Neuts:88.3 %, Lymph:8.4 %, Mono:3.0 %,
   Eos:0.1 %, Lactic Acid:7.7 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:5.7 mg/dL
   Fluid analysis / Other labs: 7.29/32/73
   Cxr: enlarged cardiac silhouette.  PICC in L subclavian artery.  No
   infiltrate
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION): gangrene, gnr in blood
    - cont gent/[**Last Name (un) 430**]/vanc
    - f/u sensis
    - f/u gent level
    - holding ivf
    - MAP> 55
    - to OR for RLE amputation
    - new L IJ to be placed in OR, if pt stable and no need for PICC will
   d/c given bacteremia
   RIJ clot:
    - heparin on hold for OR, will restart post-op depending on surgery
   HyperK:
    - getting HD
   DM2:
    - riss
   ESRD: cont HD, w levophed as necessary, cvvh if necessary
   COPD: bipap as needed, nebs as needed
   ABD pain: likely [**12-31**] hypoperfusion, but pt with history of ischemic
   colitis
    - serial exams, f/u afternoon lactace
   Pain control: morphine as needed
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2193-8-26**] 12:30 PM
   Arterial Line - [**2193-8-26**] 06:09 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: ppi
   VAP: HOB elevation, mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2193-08-27 10:52:00 Physician Attending Progress Note
Chief Complaint: gangrene, septic shock, encephalopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2193-8-26**] 12:30 PM
 ULTRASOUND - At [**2193-8-26**] 02:23 PM
 ARTERIAL LINE - START [**2193-8-26**] 06:09 PM
 ULTRASOUND - At [**2193-8-26**] 09:30 PM
   of right SC and right IJ
   Brachial arterial line placed.  Blood pressure increased with fluids
   and pressors.  Mental status a bit better this morning.  However,
   lactate has increased.
   Allergies:
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Meropenem - [**2193-8-26**] 04:00 PM
   Ciprofloxacin - [**2193-8-26**] 04:50 PM
   Gentamicin - [**2193-8-26**] 07:00 PM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2193-8-26**] 06:59 PM
   Other medications:
   reviewed in [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-27**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.4
C (95.8
   HR: 68 (56 - 72) bpm
   BP: 119/60(81) {38/15(23) - 119/89(293)} mmHg
   RR: 14 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: RBBB (Right Bundle Branch Block)
             Total In:
                                                                  2,153 mL
                                                                  2,322 mL
   PO:
             TF:
   IVF:
                                                                  1,733 mL
                                                                  2,142 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,153 mL
                                                                  2,322 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.29/32/73.[**Numeric Identifier 607**]/15/-9
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Dopplerable), (Left radial
   pulse: Diminished), (Right DP pulse: Dopplerable), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly, Crackles :
   laterally)
   Abdominal: abdomen has discomfort with palpation but no peritoneal
   signs
   Musculoskeletal: left foot more noxious odor; substantially more
   fluctuant than yesterday but no crepitus;
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   305 K/uL
   197
   6.8 mg/dL
   15 mEq/L
   5.7 mEq/L
   43 mg/dL
   99 mEq/L
   138 mEq/L
   29.1 %
   24.6 K/uL
        [image002.jpg]
                             [**2193-8-26**]  01:37 PM
                             [**2193-8-26**]  01:45 PM
                             [**2193-8-26**]  06:44 PM
                             [**2193-8-26**]  10:00 PM
                             [**2193-8-26**]  10:30 PM
                             [**2193-8-27**]  12:25 AM
                             [**2193-8-27**]  03:21 AM
                             [**2193-8-27**]  03:42 AM
                             [**2193-8-27**]  06:00 AM
                             [**2193-8-27**]  06:55 AM
   WBC
   16.3
   24.6
   Hct
   26.8
   29.1
   Plt
   218
   305
   Cr
   6.7
   6.8
   TCO2
   27
   22
   19
   18
   16
   Glucose
   138
   147
   109
   182
   190
   177
   197
   Other labs: PT / PTT / INR:18.1/150.0/1.6, ALT / AST:[**9-13**], Alk Phos /
   T Bili:120/0.3, Differential-Neuts:88.3 %, Lymph:8.4 %, Mono:3.0 %,
   Eos:0.1 %, Lactic Acid:7.7 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:5.7 mg/dL
   Microbiology: GNRs in blood not yet speciated
   Assessment and Plan
   55-year-old woman with septic shock and gram negative bacteremia in the
   setting of severe peripheral vascular disease and gangrene.  Although
   blood pressure has improved, lactate has increased and foot looks
   worse.  Although she might certainly have ischemic colitis as well (she
   has a history of this), the leg is an obvious source.  Given the
   progressive worsening of her leg examination, and the marked increase
   in lactate in spite of adequate blood pressure, I think the risks of
   delaying amputation at this point outweigh the benefits of further
   elucidation of whether there might be a component of ischemic colitis.
   Discussed with patient
s daughter [**Name (NI) 10400**], and with Dr. [**Last Name (STitle) **], who
   agrees.
   We will give vancomycin, gentamicin, and meropenem for presumptive
   polymicrobial foot infection/gangrene, while awaiting speciation of
   cultures.  Continue levophed for shock.  Hold fluids for now as seems
   volume replete.
   Will need dialysis today for ESRD.
   Direct signout given to anesthesia and surgery for O.R. care in this
   complex patient.
   On heparin for IJ thrombus; held now just prior to the OR (discussed
   with Dr. [**Last Name (STitle) **] and anesthesia)
   Discussed with daughter [**Name (NI) 10400**] by phone and in person.
   Will return to MICU for further care after operation, with Dr.
   [**Last Name (STitle) **]
s service following closely.  Suspect she may return quite
   ill.
   ICU Care
   Nutrition: NPO
   Lines:
   PICC Line - [**2193-8-26**] 12:30 PM
   Arterial Line - [**2193-8-26**] 06:09 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Discussed by phone and in person with daughter [**Name (NI) 10400**]
   [**Last Name (NamePattern1) 66**] status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2193-08-28 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - d/c'ed cipro
   - sputum to be speciated by Thursday
   - R BKA without complications, extubated successfully
   - [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 458**] recs: bleeding to be expected, vsurg to do dressings
   - renal recs: removed 0.5 kg during HD
   - d/c'ed PICC overnight
   - more bleeding after OR at 5:30 PM, stat Hct 24.4 ---> 23.7, heparin
   only on for 5 minutes, shut off overnight
   - dropped SBP to 70s, levophed up to 0.5, bolus 250 cc x 2, 1 pRBC tx
   to maintain MAPS > 60
   - lactate initially dropping overnight but now 8.1
   On rounds this morning, the patient became more hypotensive and
   tachycardic, with afib/flutter. Phenylephrine was added in place of
   norepinephrine, though eventually both were turned on, as well as
   vasopressin in addition to fluid boluses up to a CVP of 18. Family were
   notified, and she was electively intubated for better control.
   Allergies:
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2193-8-26**] 04:50 PM
   Gentamicin - [**2193-8-26**] 07:00 PM
   Vancomycin - [**2193-8-27**] 12:00 PM
   Meropenem - [**2193-8-27**] 04:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2193-8-27**] 07:50 PM
   Haloperidol (Haldol) - [**2193-8-27**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-28**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 98 (61 - 103) bpm
   BP: 88/49(63) {69/38(50) - 119/69(81)} mmHg
   RR: 17 (12 - 20) insp/min
   SpO2: 98%
   Heart rhythm: RBBB (Right Bundle Branch Block)
           Total In:
                                                                  3,822 mL
                                                                  1,320 mL
   PO:
           TF:
   IVF:
                                                                  3,609 mL
                                                                  1,003 mL
   Blood products:
                                                                     33 mL
                                                                    317 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,822 mL
                                                                  1,320 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 568 (568 - 568) mL
   PS : 3 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.39/40/156/17/0
   Ve: 6.2 L/min
   PaO2 / FiO2: 312
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : )
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   271 K/uL
   9.0 g/dL
   115 mg/dL
   4.4 mg/dL
   17 mEq/L
   4.3 mEq/L
   25 mg/dL
   99 mEq/L
   141 mEq/L
   30
   14.5 K/uL
        [image002.jpg]
   Anisocy: 1+ Poiklo: 2+ Macrocy: 1+ Spheroc: OCCASIONAL Ovalocy:
   OCCASIONAL Burr: OCCASIONAL Tear-Dr: OCCASIONAL Ellipto: OCCASIONAL
   PT: 21.1
   PTT: 32.5
   INR: 2.0
   Fibrinogen: Pnd
                             [**2193-8-27**]  03:42 AM
                             [**2193-8-27**]  06:00 AM
                             [**2193-8-27**]  06:55 AM
                             [**2193-8-27**]  01:25 PM
                             [**2193-8-27**]  01:44 PM
                             [**2193-8-27**]  05:37 PM
                             [**2193-8-27**]  10:56 PM
                             [**2193-8-27**]  11:03 PM
                             [**2193-8-28**]  04:01 AM
                             [**2193-8-28**]  04:30 AM
   WBC
   21.6
   14.5
   Hct
   25.5
   27
   24.4
   23.7
   24
   29.4
   30
   Plt
   260
   271
   Cr
   3.9
   4.4
   TCO2
   18
   16
   25
   Glucose
   197
   181
   115
                                                                    10:08a
   _______________________________________________________________________
                                     pH
                                    7.21
                                    pCO2
                                     39
                                     pO2
                                     202
                                    HCO3
                                     16
                                   BaseXS
                                     -11
   intubated 450x14
   BLOOD GASES
                                    Type
                                    Temp
                                    Rates
                                   Tidal V
                                    PEEP
                                    FiO2
                                   O2 Flow
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
                                   Intubat
                                    Vent
                                   Comment
   [1][**2193-8-28**] 10:08AM
                                     ART
                                    202*
                                     39
                                  7.21*[1]
                                     16*
                                     -11
   [2][**2193-8-28**] 09:40AM
                                     [**Last Name (un) **]
   [3][**2193-8-28**] 09:21AM
                                     ART
                                    126*
                                     31*
                                    7.30*
                                     16*
                                     -9
   [4][**2193-8-28**] 08:14AM
                                     ART
                                    111*
                                     29*
                                    7.34*
                                     16*
                                     -8
   [5][**2193-8-28**] 08:08AM
                                     [**Last Name (un) **]
                                   57*[2]
                                     36
                                    7.29*
                                     18*
                                     -8
   WHOLE BLOOD, MISCELLANEOUS CHEMISTRY
                                   Glucose
                                   Lactate
                                     Na
                                      K
                                     Cl
   [6][**2193-8-28**] 10:08AM
                                    106*
                                   8.5*[1]
                                     138
                                     4.3
                                     104
   [7][**2193-8-28**] 09:21AM
                                   8.1*[1]
   [8][**2193-8-28**] 08:14AM
                                   7.0*[1]
   [9][**2193-8-28**] 08:08AM
                                   7.2*[1]
   [10][**2193-8-28**] 04:30AM
                                   8.1*[1]
   [11][**2193-8-27**] 11:03PM
                                    3.8*
   Na:138
   K:4.3
   Cl:104
   Glu:106
   freeCa:1.01
   Lactate:8.5
   Other labs: PT / PTT / INR:21.1/32.5/2.0, ALT / AST:[**9-13**], Alk Phos / T
   Bili:120/0.3, Differential-Neuts:88.3 %, Lymph:8.4 %, Mono:3.0 %,
   Eos:0.1 %, Lactic Acid:8.1 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   [**8-27**] Wound Cx: pending
   [**8-27**] BCx pending
   [**8-26**] BCx pending
   [**8-25**] BCx:
[**2193-8-25**] 5:02 am BLOOD CULTURE      Source: Line-picc.
   Blood Culture, Routine (Preliminary):
      GRAM NEGATIVE ROD(S).    OF TWO COLONIAL MORPHOLOGIES.
   Aerobic Bottle Gram Stain (Final [**2193-8-26**]):
      REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] @ 0314 ON [**8-26**] - [**Numeric Identifier 10430**].
      GRAM NEGATIVE ROD(S).
      Anaerobic Bottle Gram Stain (Final [**2193-8-26**]):    GRAM NEGATIVE
   ROD(S).
   [**8-24**] BCx pending
   [**8-23**] BCx pending
[**2193-8-22**] 8:35 am BLOOD CULTURE      HD LINE.
   Blood Culture, Routine (Preliminary):
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ISOLATED FROM ONE SET ONLY.
         SENSITIVITIES PERFORMED ON REQUEST..
   Aerobic Bottle Gram Stain (Final [**2193-8-23**]):
      GRAM POSITIVE COCCI IN CLUSTERS.
      REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] 3:23PM [**2193-8-23**].
   CXR [**8-26**]
   FINDINGS: In comparison with the study of [**8-22**], the nasogastric tube
   extends
   into the stomach, passed the bottom edge of the image. There is
   enlargement
   of the cardiac silhouette without definite vascular congestion or
   pleural
   effusion. The right costophrenic angle has been excluded from the
   image.
   There is thickening of the minor fissure, which could be a
   manifestation of
   pleural effusion on the right.
   The right PICC line again does not appear to extend into the
   hemithorax.
   U/S [**8-26**]:
   FINDINGS: Limited ultrasound of the right internal jugular and
   subclavian
   veins was performed at the request of the ordering provider. [**Name10 (NameIs) **] is
   thrombus in the right internal jugular vein. The PICC line is seen in
   the
   right subclavian vein.
   IMPRESSION: Right IJ vein thrombus.
   Assessment and Plan
   # Sepsis & GNR Bacteremia: Day 2 of vanc/[**Last Name (un) 430**]/gent, lactate has risen
   despite 2L fluid thought [**12-31**] to right foot wet gangrene
   Despite her amputation and antimicrobial coverage for her GNR
   bacteremia, she remains persistently septic and hypotensive. INR rising
   is suggestive of DIC. Her abdominal pain, though this has been a
   chronic characteristic of her course of late, raises the possibility of
   c. difficile infection that merits empiric coverage for now.
   Her central venous O2 sat returned 90% suggesting this is primarily
   sepsis mediated rather can cardiogenic.
   Echo tech is at bedside to better evaluate for effusion, RV failure or
   new wall motion abnormality.
   Given DIC/bleeding risk, we have discussed and will not empirically add
   activated protein C to her regimen. Additionally, given that this is
   likely infectious mediated with concern for abdominal process, will
   defer empiric corticosteroids for now.
   - increase meropenem to 1000mg IV daily
   - continue/redose IV vancomycin given level of 11
   - redose gentamicin
   - trending lactate
   - vasopressor support to maximal levels
   - CTA abdomen, as well as chest for ruling out acute thrombotic events
   to the messentary or the pulmonary vasculature. This is ordered, though
   travel outside of the MICU bears risk given her instability.
   # Mechanical Ventilation: 450cc x 14bpm, ABG now on this is
                                     pH
                                    7.21
                                    pCO2
                                     39
                                     pO2
                                     202
                                    HCO3
                                     16
                                   BaseXS
                                     -11
    Will increase rate to help counteract metabolic acidosis.
   # Abdominal Pain: no rebound/rigidty though given ESRD, she may not be
   able to mount full peritoneal signs.
   -consider intra-abdominal ischemia if not improving after OR today
   - treating empirically for c. diff with PO vancomycin and IV
   metronidazole.
   # Hyperkalemia:
   Had HD yesterday; ECG this am suggestive of hyperkalemia, sending stat
   K now.
   Will call renal as she may need emergent HD
   # RIJ Clot. Potential source being PICC line catheter, though not fully
   investigated there. There is RIJ clot however.
   -   Anticoagulation was started yesterday though she was oozing with
   increased blood loss
   - For now, deferring IV heparin given DIC like picture
   #. Diabetes: Continue RISS. Pt not aware of current re
   - follow fingersticks ; only obtaining sliding scale now, deferring
   tight control.
   - diabetic/renal diet
   #. ESRD on HD: HD on T, Th, Sat
   -   Will d/w renal re: HD today
   -   remains without access for cvvh.
   # Agitation: intubated and sedated wth fentanyl and versed.
   #. HTN: Hold BP meds for now
   #. COPD: ibtubated.
   #. Bradycardia: resolved; now tachycardic.
   #. CAD:
   - continue simvastatin, ASA
   - hold bblocker as hypotensive
   #. OSA: cpap at night.
   #. Gastroparesis: holding reglan given npo
   #. Depression: discontinued medications
   # FEN: IVFs / replete lytes prn / NPO
   # PPX: PPI, heparin SQ, bowel regimen
   ICU Care
   Nutrition:  Tube Feeds
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-8-26**] 06:09 PM
   Multi Lumen - [**2193-8-27**] 12:00 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_166%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_167%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_168%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_169%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_170%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_183%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_184%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_185%22);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_186%22);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_187%22);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_188%22);

2193-08-28 10:05:00 Physician Attending Progress Note
Chief Complaint: nonspecific pain
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   bka in OR on [**8-26**]
   picc line d/c
   cipro d/c
   hd
   overnight hypotension,increased lactate increased pressor requirement,
   now on levo/neo/vaso
   intubated this am to allow for studies
                                    Patient unable to provide history: Sedated
   Allergies:
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2193-8-26**] 04:50 PM
   Gentamicin - [**2193-8-26**] 07:00 PM
   Vancomycin - [**2193-8-27**] 12:00 PM
   Meropenem - [**2193-8-27**] 04:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2193-8-27**] 07:50 PM
   Haloperidol (Haldol) - [**2193-8-27**] 10:00 PM
   Other medications:
   mirtazepine
   asa
   nephrocaps
   RISS
   simvastatin 80
   miconazole
   sevelamer
   neurontin
   tylenol x 2
   keppra
   plavix 75 qday
   lido patch
   senna
   miralax
   meropenem
   colace
   vanc
   flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-28**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 97 (61 - 103) bpm
   BP: 91/49(64) {69/38(50) - 119/69(81)} mmHg
   RR: 14 (12 - 20) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation), RBBB (Right Bundle Branch
   Block)
   CVP: 15-16 ()mmHg
   Total In:
                                                                  3,822 mL
                                                                  1,332 mL
   PO:
   TF:
   IVF:
                                                                  3,609 mL
                                                                  1,015 mL
   Blood products:
                                                                     33 mL
                                                                    317 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,822 mL
                                                                  1,332 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: VOL/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 568 (568 - 568) mL
   PS : 3 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.34/29/111/17/-8
   Ve: 6.2 L/min
   PaO2 / FiO2: 222
   Physical Examination
   General Appearance: somnolent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: )
   Abdominal: Soft, Tender:
   Musculoskeletal: Unable to stand
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   271 K/uL
   115 mg/dL
   4.4 mg/dL
   17 mEq/L
   4.3 mEq/L
   25 mg/dL
   99 mEq/L
   141 mEq/L
   28
   14.5 K/uL
        [image002.jpg]
                             [**2193-8-27**]  06:55 AM
                             [**2193-8-27**]  01:25 PM
                             [**2193-8-27**]  01:44 PM
                             [**2193-8-27**]  05:37 PM
                             [**2193-8-27**]  10:56 PM
                             [**2193-8-27**]  11:03 PM
                             [**2193-8-28**]  04:01 AM
                             [**2193-8-28**]  04:30 AM
                             [**2193-8-28**]  08:08 AM
                             [**2193-8-28**]  08:14 AM
   WBC
   21.6
   14.5
   Hct
   25.5
   27
   24.4
   23.7
   24
   29.4
   30
   29
   28
   Plt
   260
   271
   Cr
   3.9
   4.4
   TCO2
   16
   25
   16
   Glucose
   181
   115
   Other labs: PT / PTT / INR:21.1/32.5/2.0, ALT / AST:[**9-13**], Alk Phos / T
   Bili:120/0.3, Differential-Neuts:88.3 %, Lymph:8.4 %, Mono:3.0 %,
   Eos:0.1 %, Lactic Acid:7.0 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Imaging: cxr pending
   Microbiology: gnr in blood
   Assessment and Plan
   55 yo F DM2, history of ischemic coliitis, gangrene s/p R bka
   1. Shock: septic v cardiogenic v hypovolemic
   sepsis (leg, bloodstream), cardiogenic (PE, ACS), hypovolemic (blood
   loss)
   Broad spectrum abx: vanc/[**Last Name (un) 430**]/gent; po vanc IV flagyl for cdif
   CT abdomen to assess for ischemia , colitis
   CTA to r/o PE
   TTE to evaluate cardiogenic shock
   upright cxr and portable abd
   Monitor CVP: 16-18
   MVO2: 70
   serial ABGs/Lactate
   MAP > 60
   f.u blood cultures
   not candidate for APC given recent OR/bleeding/renal failure
   holding cs for now
   2. Rhythm: new atrial fib/sinus tach likely [**12-31**] shock
    - attempting to limit
   3. BKA: vascular surgery following, possible redo?
   4. Abdominal pain: kub/abd ct
   5. ESRD: closely monitor lytes, ? CVVH, hold any unneccesary renally
   cleared medications (neurontin)
   6. R IJ clot: stable, holding a/c for now
   7. COPD: will follow resp status on vent
   8. Depression: stop remeron
   9. pain: d/c neurontin
   10. Nutrition: aline/multilumen picc
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2193-8-26**] 06:09 PM
   Multi Lumen - [**2193-8-27**] 12:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 90 minutes
   Patient is critically ill